US07211672B2
(±)-Cis-[4-[acetyl-(4-chloro-phenyl)-amino]-1-(4-dimethylamino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-7-yloxy]-acetic acid ethyl ester was prepared from (±)-cis-N-(4-chloro-phenyl)-N-[1-(4-dimethylamino-benzoyl)-7-hydroxy-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide, following the alkylation conditions described for the synthesis of (±)-cis-4-(4-{4-[(4-chloro-phenyl)-propionyl-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-butyric acid ethyl ester, substituting ethyl bromoacetate for ethyl 4-bromobutyrate.

reactant | (±)-cis-N-(4-chloro-phenyl)-N-[1-(4-dimethylamino-benzoyl)-7-hydroxy-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC(=CC=C12)O)C(C1=CC=C(C=C1)N(C)C)=O)C | C27H28ClN3O3
reactant | (±)-cis-4-(4-{4-[(4-chloro-phenyl)-propionyl-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-butyric acid ethyl ester | C(C)OC(CCCOC1=CC=C(C=C1)C(=O)N1[C@H](C[C@H](C2=CC=CC=C12)N(C(CC)=O)C1=CC=C(C=C1)Cl)C)=O | C32H35ClN2O5
reactant | ethyl 4-bromobutyrate | BrCCCC(=O)OCC | C6H11BrO2
product | (±)-Cis-[4-[acetyl-(4-chloro-phenyl)-amino]-1-(4-dimethylamino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-7-yloxy]-acetic acid ethyl ester | C(C)OC(COC1=CC=C2[C@@H](C[C@@H](N(C2=C1)C(C1=CC=C(C=C1)N(C)C)=O)C)N(C1=CC=C(C=C1)Cl)C(C)=O)=O | C31H34ClN3O5
